US04996218
4-(2-Pyrimidinyl)-3-butynol
A mixture of 2-bromopyrimidine (5.0 g), 3-butynol (2.20 g), dicyclohexylamine (6.87 g), copper (1) iodide (50 mg). BTPC (380 mg) and acetonitrile (50 ml) was stirred at room temperature under nitrogen for 16 h. Ether (150 ml) was added, the mixture filtered and the filtrate evaporated in vacuo. Purification of the residue by FCC eluting with ether and ether-methanol (1-3%) followed by System C (5:1) afforded the title compound as a pale yellow solid (4.29 g) m.p. 58°-64°, t.l.c. (System C, 99:1) Rf 0.08

reactant | 2-bromopyrimidine | 5.0 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | 3-butynol | 2.20 g | C(CC#C)O | C4H6O
reactant | dicyclohexylamine | 6.87 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | copper (1) iodide | 50 mg | [Cu]I
solvent | Ether | 150 ml | CCOCC | C4H10O
product | 4-(2-Pyrimidinyl)-3-butynol | 4.29 g | N1=C(N=CC=C1)C#CCCO | C8H8N2O
